US04263037
5-Cyano-2-morpholino-2,3-dihydro-3,3-dimethylbenzofuran (I)
2-Chloro-5-cyano-2,3-dihydro-3,3-dimethylbenzofuran (4.1 g), prepared as in Example 45 was heated under reflux at about 130° C. in morpholine (20 ml) for 4 hours. Addition to ice-water, followed by extraction with diethyl ether, gave, after water washing, drying over sodium sulphate and running down, 3.3 g of crude title product. Recrystallisation from isopropanol gave 2.3 g of pure product, mp 105°-107° C.

reactant | 2-Chloro-5-cyano-2,3-dihydro-3,3-dimethylbenzofuran | 4.1 g | ClC1OC2=C(C1(C)C)C=C(C=C2)C#N | C11H10ClNO
reactant | morpholine | 20 ml | N1CCOCC1 | C4H9NO
product | 5-Cyano-2-morpholino-2,3-dihydro-3,3-dimethylbenzofuran | 2.3 g | C(#N)C=1C=CC2=C(C(C(O2)N2CCOCC2)(C)C)C1 | C15H18N2O2
